US07582657B2
(a) 4-(4-Trifluoromethyl-phenyl)-pyridine
In a 250-mL, round-bottomed flask were added 4-bromopyridine hydrochloride (Aldrich) (4.7 g, 24 mmol), tetrakis (triphenylphosphine) palladium (0) (Aldrich) (1.4 g, 1.2 mmol) and 1,2-dimethoxyethane (120 mL). After stirring under nitrogen for 10 min, a solution of Na2CO3 (5.2 g in 30 mL of water) and 4-trifluoromethylbenzeneboronic acid (5.1 g, 27 mmol) were added sequentially to the mixture. The reaction was stirred in a 90° C. oil bath overnight. The 1,2-dimethoxyethane was evaporated in vacuo, and EtOAc was added to the residue. The aqueous layer was separated and extracted with EtOAc (2×50 mL). The combined EtOAc extracts were washed with brine, dried over Na2SO4 and concentrated in vacuo. Purification by silica gel flash chromatography using 1:5 EtOAc/hexanes as eluent gave the title compound as a light-tan solid. MS (ESI, pos. ion) m/z: 224 (M+1).

reactant | 4-bromopyridine hydrochloride | 24 mmol, 4.7 g | Cl.BrC1=CC=NC=C1
reactant | Na2CO3 | 30 mL, 5.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-trifluoromethylbenzeneboronic acid | 27 mmol, 5.1 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 1.2 mmol, 1.4 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-dimethoxyethane | 120 mL | COCCOC | C4H10O2
product | 4-(4-Trifluoromethyl-phenyl)-pyridine | FC(C1=CC=C(C=C1)C1=CC=NC=C1)(F)F | C12H8F3N
